US08445679B2
(Z)-ethyl 2-azido-3-(5-bromo-2-chlorophenyl)acrylate
To a solution of sodium ethoxide in ethanol (15 mL) cooled to −10° C. was added dropwise a solution of 5-bromo-2-chlorobenzaldehyde (1.0 g) and ethyl 2-azidoacetate (11 mL, 18 mmol) in ethanol-tetrahydrofuran (15 mL-3 mL). The reaction mixture was stirred at −10° C. for 3 hours, allowed to warm to 10° C. over 3 hours and poured onto crushed ice. The solid was collected by filtration and dried in a vacuum oven to provide the title compound.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 5-bromo-2-chlorobenzaldehyde | 1.0 g | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
reactant | ethyl 2-azidoacetate | 18 mmol, 11 mL | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethanol tetrahydrofuran | 15 mL-3 mL | C(C)O.O1CCCC1
product | (Z)-ethyl 2-azido-3-(5-bromo-2-chlorophenyl)acrylate | N(=[N+]=[N-])\C(\C(=O)OCC)=C/C1=C(C=CC(=C1)Br)Cl | C11H9BrClN3O2
